US04766147
29 mg (0.1 mmole) of 4-butyl-5-(6-methoxycarbonyl-2-hexynylidene)-3-hydroxycyclopentanone was dissolved in a mixture of 1 ml of acetic acid, 0.5 ml of tetrahydrofuran and 0.5 ml of water and the solution was stirred at 50° C. for 18 hours in the same way as in Example 1. The reaction mixture was worked up and separated in the same way as in Example 7 to give 13 mg (0.047 mmole; 47% yield) of 4-butyl-5-(6-methoxycarbonyl-2-hexynylidene)-2-cyclopentenone. The resulting compound had the following spectral data.

reactant | 4-butyl-5-(6-methoxycarbonyl-2-hexynylidene)-3-hydroxycyclopentanone | 0.1 mmole, 29 mg | C(CCC)C1C(CC(C1=CC#CCCCC(=O)OC)=O)O | C17H24O4
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
product | 4-butyl-5-(6-methoxycarbonyl-2-hexynylidene)-2-cyclopentenone | 0.047 mmole, 13 mg, 47% yield | C(CCC)C1C=CC(C1=CC#CCCCC(=O)OC)=O | C17H22O3
